US08119692B2
(3S,5R)-3-Allyl-5-(4-fluoro-3-methylphenyl)dihydrofuran-2(3H)-one (Intermediate D4)
To a solution of lithium bis(trimethylsilyl)amide (1.2 mmol) in anhydrous THF (20 mL) was added (R)-5-(4-fluoro-3-methyl-phenyl)-dihydro-furan-2-one (194 mg) in 1 mL THF at −70° C. over a period of 15 minutes. After completing the addition, the mixture was stirred for an additional 20 min at −70° C. and then for 10 min at room temperature. The mixture was cooled down again to −70° C. and a pre-cooled solution of 200 mg 1-bromo-but-2-ene and 400 μL HMPA in 1 mL THF slowly added. The mixture was further stirred at −70° C. for 2 h and the temperature was slowly raised to room temperature over a period of 2 h. The reaction was quenched by pouring into saturated NH4Cl (20 mL) and followed extraction with ethyl acetate (3×30 mL). The combined organic layers were washed with 20 mL brine twice and dried over Na2SO4. The solvent was removed under reduced pressure and the product isolated by flash column chromatographed eluting with 0% to 50% ethyl acetate/hexane gradient solvent to give the anti/syn products (94:6 ratios).

reactant | lithium bis(trimethylsilyl)amide | 1.2 mmol | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (R)-5-(4-fluoro-3-methyl-phenyl)-dihydro-furan-2-one | 194 mg | FC1=C(C=C(C=C1)[C@H]1CCC(O1)=O)C | C11H11FO2
reactant | 1-bromo-but-2-ene | 200 mg | BrCC=CC | C4H7Br
reactant | HMPA | 400 μL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (3S,5R)-3-Allyl-5-(4-fluoro-3-methylphenyl)dihydrofuran-2(3H)-one | C(C=C)[C@@H]1C(O[C@H](C1)C1=CC(=C(C=C1)F)C)=O | C14H15FO2
